US07482439B2
Caprazamycin B (150 mg) was dissolved in N,N-dimethylformamide (1.5 ml), and to the resultant solution was then added 28% aqueous ammonia solution (1.5 ml). The resulting mixture was stirred at room temperature for 4 days to effect the intended hydrolysis. Insolubles formed in the reaction solution were filtered off, and thereafter the reaction solution was concentrated and the resulting residue was washed with acetone and dried. Thus, there was afforded caprazol (74.7 mg) as a colorless solid.

reactant | Caprazamycin B | 150 mg | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)OC(=O)C[C@@H](C)CC(=O)O[C@@H](CCCCCCCCCCCC(C)C)CC(=O)O[C@H]2CN([C@H](C(=O)N([C@@H]2C(=O)O)C)[C@@H]([C@@H]3[C@H]([C@H]([C@@H](O3)N4C=CC(=O)NC4=O)O)O)O[C@H]5[C@@H]([C@@H]([C@H](O5)CN)O)O)C)OC)OC)OC | C54H89N5O22
reactant | ammonia | 1.5 ml | N | H3N
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | caprazol | 74.7 mg | CN1C[C@@H]([C@H](N(C(=O)[C@@H]1[C@@H]([C@@H]2[C@H]([C@H]([C@@H](O2)N3C=CC(=O)NC3=O)O)O)O[C@H]4[C@@H]([C@@H]([C@H](O4)CN)O)O)C)C(=O)O)O | C22H33N5O13
